### PR TITLE
[Merged by Bors] - fix(fun_prop):  few bug fixes for fun_prop

### PR DESCRIPTION
**Pull request by lecopivo**
Bug fixes
1. Fix infinite loop triggered by `(by fun_prop : ?m)`
2. Support for multiple lambda theorems. For example `ContinuousOn` has multiple versions of composition theorem.
3. Support for special constant lambda theorem. For example `IsLinearMap R fun _ => 0` should be registered as constant lambda theorem
4. Improved error messages when trying `fun_prop` on non-fun_prop goal
5. Improved error messages when missing lambda theorems

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by lecopivo** [comment]
One more fix for expression involving `Expr.proj`

For example this was failing
```
example : Continuous fun ((x, y, z) : ℝ × ℝ × ℝ) ↦ y := by fun_prop
example : Continuous fun ((x, y, z) : ℝ × ℝ × ℝ) ↦ z := by fun_prop
```

**Comment by YaelDillies** [comment]
Would you mind adding some more inline comments? The code would be easier to understand.

**Comment by lecopivo** [comment]
Do you have a specific part in mind? I can make it more readable. It would be difficult for me to do so without knowing what to improve.

**Comment by j-loreaux** [comment]
@alexjbest if you wouldn't mind taking a look at this at some point I would greatly appreciate it!

File: Mathlib/Tactic/FunProp.lean [hunk 1]
```diff
@@ -9,3 +14,150 @@ import Mathlib.Tactic.FunProp.StateList
...
+`Differentiable`, `ContDiff`, etc. so `fun_prop` should work for such goals
+
+For `ContinuousAt/On/Within` variants one has to specify a tactic to solve potential side goals
+with `disch:=<tactic>`. For example
+```lean
+example (y : ℝ) (hy : y ≠ 0) : ContinuousAt (fun x : ℝ => 1/x) y := by fun_prop (disch:=assumption)
+```
+
+**Basic debugging:**
+The most common issue is that a function is missing appropriate theorem. For example
```
Comment (j-loreaux) [inline Mathlib/Tactic/FunProp.lean:36]:
```suggestion
The most common issue is that a function is missing the appropriate theorem. For example
```

File: Mathlib/Tactic/FunProp.lean [hunk 2]
```diff
@@ -9,3 +14,150 @@ import Mathlib.Tactic.FunProp.StateList
...
+```
+Fails with the error
+```lean
+`fun_prop` was unable to prove `Continuous fun x => x * x.sin`
+
+Issues:
+  No theorems found for `Real.sin` in order to prove `Continuous fun x => x.sin`
+```
+this can be easily fixed by importing `Mathlib.Analysis.SpecialFunctions.Trigonometric.Basic`
+where the theorem `Real.continuous_sin` is marked with `fun_prop` attribute.
```
Comment (j-loreaux) [inline Mathlib/Tactic/FunProp.lean:49]:
```suggestion
where the theorem `Real.continuous_sin` is marked with the `fun_prop` attribute.
```

File: Mathlib/Tactic/FunProp.lean [hunk 3]
```diff
@@ -9,3 +14,150 @@ import Mathlib.Tactic.FunProp.StateList
...
+
+When the issue is not simply few missing theorems then you can turn on the option
```
Comment (j-loreaux) [inline Mathlib/Tactic/FunProp.lean:51]:
```suggestion
When the issue is not simply a few missing theorems then you can turn on the option
```

File: Mathlib/Tactic/FunProp.lean [hunk 4]
```diff
@@ -9,3 +14,150 @@ import Mathlib.Tactic.FunProp.StateList
...
+set_option trace.Meta.Tactic.fun_prop true
+```
+and the trace of how `fun_prop` steps through the whole expression is displayed.
+
+
+**Basic setup for new function property:**
+
+To set up `fun_prop` for a new function property you have to:
+
+1. Mark function property with `fun_prop` attribute when defining it
```
Comment (j-loreaux) [inline Mathlib/Tactic/FunProp.lean:62]:
```suggestion
1. Mark the function property with `fun_prop` attribute when defining it
```

File: Mathlib/Tactic/FunProp.lean [hunk 5]
```diff
@@ -9,3 +14,150 @@ import Mathlib.Tactic.FunProp.StateList
...
+
+@[fun_prop]
+theorems continuous_const (y : Y) : Continuous (fun x => y) := ...
+
+@[fun_prop]
+theorems continuous_comp (f : Y → Z) (g : X → Y) (hf : Continuous f) (hg : Continuous g) :
+  Continuous (fun x => f (g x)) := ...
+```
+The constant theorem is not absolutely necessary as for example `IsLinearMap ℝ (fun x => y)` does
+not hold but almost certainly want to mark it if it is available.
```
Comment (j-loreaux) [inline Mathlib/Tactic/FunProp.lean:86]:
```suggestion
not hold but we almost certainly want to mark it if it is available.
```

File: Mathlib/Tactic/FunProp.lean [hunk 6]
```diff
@@ -9,3 +14,150 @@ import Mathlib.Tactic.FunProp.StateList
...
+be stated in compositional form as
+```lean
+@[fun_prop]
+theorem continuous_neg (f : X → Y) (hf : Continuous f) : Continuous (fun x => - f x) := ...
+
+@[fun_prop]
+theorem continuous_add (f g : X → Y) (hf : Continuous f) (hg : Continuous g) :
+    Continuous (fun x => f x + g x) := ...
+```
+It is enough to provide function theorems in either form. It is manly a matter of convenience.
```
Comment (j-loreaux) [inline Mathlib/Tactic/FunProp.lean:106]:
```suggestion
It is enough to provide function theorems in either form. It is mainly a matter of convenience.
```

File: Mathlib/Tactic/FunProp.lean [hunk 7]
```diff
@@ -9,3 +14,150 @@ import Mathlib.Tactic.FunProp.StateList
...
+
+
+With such basic set up you should be able to prove continuity of basic algebraic expressions.
```
Comment (j-loreaux) [inline Mathlib/Tactic/FunProp.lean:109]:
```suggestion
With such a basic set up you should be able to prove continuity of basic algebraic expressions.
```

File: Mathlib/Tactic/FunProp.lean [hunk 8]
```diff
@@ -9,3 +14,150 @@ import Mathlib.Tactic.FunProp.StateList
...
+
+
+When marking theorems it is a good idea to check that a theorem has been registered correctly.
+You can do this by turning on the `Meta.Tactic.fun_prop.attr` option. For example
+(note that the notation `f x + g x` is just a syntatic suggar for `@HAdd.hAdd X Y Y _ (f x) (g x))
```
Comment (j-loreaux) [inline Mathlib/Tactic/FunProp.lean:114]:
```suggestion
(note that the notation `f x + g x` is just a syntactic sugar for `@HAdd.hAdd X Y Y _ (f x) (g x))
```

File: Mathlib/Tactic/FunProp.lean [hunk 9]
```diff
@@ -9,3 +14,150 @@ import Mathlib.Tactic.FunProp.StateList
...
+basic setup and using the tactic
+
+### Type of theorems
+
+  - lambda theorems
+  - function theorems - compositional form vs simple
+  - morphism theorems
+  - transition theorems
+
+- checking theorems is correctly recognized
```
Comment (j-loreaux) [inline Mathlib/Tactic/FunProp.lean:145]:
```suggestion
- checking theorems are correctly recognized
```

File: Mathlib/Tactic/FunProp/Core.lean [hunk 10]
```diff
@@ -542,6 +573,10 @@ def constAppCase (funPropDecl : FunPropDecl) (e : Expr) (fData : FunctionData)
   if let .some r ← tryTheorems funPropDecl e fData localThms funProp then
     return r
 
+  -- log error if no global or local theoresm were found
```
Comment (j-loreaux) [inline Mathlib/Tactic/FunProp/Core.lean:576]:
```suggestion
  -- log error if no global or local theorems were found
```

File: Mathlib/Tactic/FunProp/Elab.lean [hunk 11]
```diff
@@ -51,25 +51,31 @@ def funPropTac : Tactic
     goal.withContext do
       let goalType ← goal.getType
 
-      let cfg : Config := {disch := disch, constToUnfold := .ofArray namesToUnfold _}
-      let (r?, s) ← funProp goalType cfg |>.run {}
+      -- the whnf and telscope is here because the goal can be
```
Comment (j-loreaux) [inline Mathlib/Tactic/FunProp/Elab.lean:54]:
```suggestion
      -- the whnf and telescope is here because the goal can be
```

**Review by j-loreaux — COMMENTED** [review]
@lecopivo thanks for starting to work on this! All these comments are just typo corrections and should be trivially mergeable. Ping me when you have addressed Yaël's comment above too and I will take another look.

File: Mathlib/Tactic/FunProp.lean [hunk 12]
```diff
@@ -127,37 +137,213 @@ displays
...
+    ```
+
+- Function Theorems:
+    When `fun_prop` breaks complicated expression apart using *lambda theorems* it then uses
+    *function theorems* to prove that each piece is, for example, continuous.
+
+    The function theorem for `Neg.neg` and `Continuous` can be stated as:
+    ```lean
+    @[fun_prop]
+    theorem continuous_neg : Continuous (fun x => Neg.neg x) := ...
```
[the remark this answers is not in the document]
Comment (lecopivo) [reply Mathlib/Tactic/FunProp.lean:221]: I'm doing it because for example for `a + b` the head of this expression is `HAdd.hAdd`  which is obvious when you write it as `HAdd.hAdd a b` and you don't even know what is the definition of "head of an expression".

Maybe should I switch to some functions that don't have this issue? Maybe `sin` and what would be a good two argument function?

File: Mathlib/Tactic/FunProp.lean [hunk 13]
```diff
@@ -127,37 +137,213 @@ displays
...
+    You can provide either form; it is mainly a matter of convenience. You can check if the form of
+    a theorem has been correctly detected by turning on the option:
+    ```lean
+    set_option Meta.Tactic.fun_prop.attr true
+    ```
+    If you really care that the resulting proof term is as short as possible, it is a good idea to
+    provide both versions.
+
+    One exception to this rule is the theorem for `Prod.mk`, which has to be stated in compositional
+    form.
```
[the remark this answers is not in the document]
Comment (lecopivo) [reply Mathlib/Tactic/FunProp.lean:238]: Because the theorem for `Prod.mk` is used to decompose more complicated functions into simpler. 

For example,
When you want to prove something about the function `(fun x => sin (exp x) + cos (exp x))` it get decomposed as
```
(fun x => x.1 + x.2)
∘
(fun x => (sin (exp x), cos (exp x)))
```
You should have exact theorem for `(fun x => x.1 + x.2)`. 

To deal with `fun x => (sin (exp x), cos (exp x))` you apply theorem for `Prod.mk` to decompose it into two problems, one for `fun x => sin (exp x)` and one for `fun x => cos (exp x)`.

File: Mathlib/Tactic/FunProp/Core.lean [hunk 14]
```diff
@@ -147,20 +146,37 @@ def tryTheoremWithHint? (e : Expr) (thmOrigin : Origin)
...
+  -- However, in `fun_prop` case this is not completely desirable
+  -- For example, I want to be able to solve a goal with mvars like `ContDiff ℝ ?n f` using local
+  -- hypothesis `(h : ContDiff ℝ ∞ f)` and assign `∞` to the mvar `?n`.
+  --
+  -- This could be problematic if there are two local hypothesis `(hinf : ContDiff ℝ ∞ f)` and
+  -- `(h1 : ContDiff ℝ 1 f)` and appart from solving `ContDiff ℝ ?n f` there is also a subgoal
+  -- `2 ≤ ?n`. If `fun_prop` decides to try `h1` first it would assign `1` to `?n` and then there
+  -- is no hope solving `2 ≤ 1` and it won't be able to apply `hinf` after trying `h1` as `n?` is
+  -- assigned already. Ideally `fun_prop` would roll back the `MetaM.State`. This issue did not
+  -- come up yet so I didn't bother and I'm worried about the performance impact.
```
[the remark this answers is not in the document]
Comment (lecopivo) [reply Mathlib/Tactic/FunProp/Core.lean:161]: Yeah it will probably come up. I will think about it but will not solve it right now.

File: Mathlib/Tactic/FunProp.lean [hunk 15]
```diff
@@ -127,37 +137,213 @@ displays
...
+
+    In fact, not only `DFunLike.coe` but any function coercion is treated this way. Such function
+    coercion has to be registered with `Lean.Meta.registerCoercion` with coercion type `.coeFun`.
+    ```lean
+    #eval Lean.Elab.Command.liftTermElabM do
+      Lean.Meta.registerCoercion <morphism_to_fun_coercion_name>
+        (some { numArgs := _, coercee := _, type := .coeFun })
+    ```
+    This is useful when you define your own bundled morphism and do not want to use Mathlib's
+    `FunLike` class.
```
[the remark this answers is not in the document]
Comment (lecopivo) [reply Mathlib/Tactic/FunProp.lean:287]: Yes you are right. I will add an example with `MyFunLike` that will prevent the confusion.

File: Mathlib/Tactic/FunProp.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (lecopivo) [reply Mathlib/Tactic/FunProp.lean]: I added 
> This because this theorem together with *lambda theorems* is used to break expression to smaller pieces and `fun_prop`  assumes it is written in compositional form.

Does that make it a bit more clear?

**Comment by lecopivo** [comment]
I think I have addressed all the comments except for the `if then else`. I disagree that every `if` should be commented, the function there is literally called `tryTheorem...`, so the `if` statement is testing if trying a theorem succeed or not.

**Comment by faenuccio** [comment]
I have removed the `awaiting-review` label according to the decision explained here
https://leanprover.zulipchat.com/#narrow/stream/113486-announce/topic/Changes.20to.20the.20.23queue/near/450176907

File: Mathlib/Tactic/FunProp.lean (hunk 12 above)
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Tactic/FunProp.lean]: No, that's fine, it makes sense, but perhaps a short parenthetical comment to the effect of "(the *head* of an expression is the term which appears first in the tree; for binary operations, like `a + b`, after stripping away the syntactic sugar / notation this becomes `HAdd.hAdd a b`; here we prefer the latter to make the head expression more obvious)"

**Review by joneugster — COMMENTED** [review]
I started commenting on style realising I had actually more to say, so here are just a few plain stylistic things. More to follow in a bit.

File: Mathlib/Tactic/FunProp/Types.lean [hunk 16]
```diff
@@ -19,14 +19,11 @@ open Lean Meta
...
 initialize registerTraceClass `Meta.Tactic.fun_prop
-initialize registerTraceClass `Meta.Tactic.fun_prop.step
-initialize registerTraceClass `Meta.Tactic.fun_prop.unify
-initialize registerTraceClass `Meta.Tactic.fun_prop.discharge
-initialize registerTraceClass `Meta.Tactic.fun_prop.apply
-initialize registerTraceClass `Meta.Tactic.fun_prop.unfold
+initialize registerTraceClass `Meta.Tactic.fun_prop.attr
 initialize registerTraceClass `Meta.Tactic.fun_prop.cache
+initialize registerTraceClass `Meta.Tactic.fun_prop.errors
+initialize registerTraceClass `Meta.Tactic.fun_prop.step
```
Comment (joneugster) [inline Mathlib/Tactic/FunProp/Types.lean:26]: 1. Should these have `(inherited := true)` so that `set_option trace.Meta.Tactic.fun_prop` enables all of them? (see [docstring of `registerTraceClass`](https://leanprover-community.github.io/mathlib4_docs/Lean/Util/Trace.html#Lean.registerTraceClass))
2. These could benefit from docstrings explaining what sort of traces they enable.

File: Mathlib/Tactic/FunProp/Types.lean [hunk 17]
```diff
@@ -66,49 +63,71 @@ def FunctionData.getFnOrigin (fData : FunctionData) : Origin :=
...
+  utilize its cache -/
+  cache        : Simp.Cache := {}
   /-- Count the number of steps and stop when maxSteps is reached. -/
   numSteps := 0
   /-- Log progress and failures messages that should be displayed to the user at the end. -/
-  msgLog : List String := []
+  mainMsgLog : List String := []
+  /-- Log progress and failures messages that should be displayed to the user at the end when
+  the option `Meta.Tactic.fun_prop.errors` is set to true. -/
+  secondaryMsgLog : List String := []
```
Comment (joneugster) [inline Mathlib/Tactic/FunProp/Types.lean:119]: This entire approach to logging seems a bit peculiar to me. I feel like the more common ways to do this would be either:

### Option A

Use just one `msgLog` as before and no "LoggingMode". Create an option

```
register_option Meta.Tactic.fun_prop.errors : Bool := {
  defValue := false
  descr := "yada yada" }
```

and then use `if Meta.Tactic.fun_prop.errors.get (← getOptions) then` whenever you want to add a "secondary" log message. (this approach does not sort them as main/secondary, but seems much simpler)

### Option B

Just use `trace[Meta.Tactic.fun_prop.errors]` wherever you have these secondary error messages, don't bother about the sorting and have the error say something like "enable `set_option trace.Meta.Tactic.fun_prop.errors true` to see more details!" No need for the "LoggingMode" either.

### Option C
If you really think adding `LoggingMode` adds value, I'd still suggest you use `register_option` instead of `registerTraceClass`.

In any case, it would be nice to have a test in the dev-test file using `#guard_msgs` which demonstrates the expected error message, would help understanding and reviewing..

File: Mathlib/Tactic/FunProp/Theorems.lean [hunk 18]
```diff
@@ -18,104 +18,74 @@ open Lean Meta
...
-  | comp (f g : Nat)
-  | letE (f g : Nat)
-  | pi (f : Nat)
+  /-- Identity theorem e.g. `Continuous fun x => x` -/
+  | id
+  /-- Constant theorem e.g. `Continuous fun x => y` -/
+  | const
+  /-- Apply theorem e.g. `Continuous fun (f : (x : X) → Y x => f x)` -/
+  | apply
+  /-- Composition theorem e.g.  `Continuous f → Continuous g → Continuous fun x => f (g x)`
```
Comment (joneugster) [inline Mathlib/Tactic/FunProp/Theorems.lean:30]:
```suggestion
  /-- Composition theorem e.g. `Continuous f → Continuous g → Continuous fun x => f (g x)`
```

File: Mathlib/Tactic/FunProp/Theorems.lean [hunk 19]
```diff
@@ -18,104 +18,74 @@ open Lean Meta
...
+
+  The numbers `fArgId` and `gArgId` store the arguement index for `f` and `g` in the composition
```
Comment (joneugster) [inline Mathlib/Tactic/FunProp/Theorems.lean:32]:
```suggestion
  The numbers `fArgId` and `gArgId` store the argument index for `f` and `g` in the composition
```

File: Mathlib/Tactic/FunProp/Theorems.lean [hunk 20]
```diff
@@ -18,104 +18,74 @@ open Lean Meta
...
+/-- Tag for one of the 5 basic lambda theorems -/
 inductive LambdaTheoremType
-  | id  | const | proj| projDep | comp | letE  | pi
+  /-- Identity theorem e.g. `Continuous fun x => x` -/
+  | id
+  /-- Constant theorem e.g. `Continuous fun x => y` -/
+  | const
+  /-- Apply theorem e.g. `Continuous fun (f : (x : X) → Y x => f x)` -/
+  | apply
+  /-- Composition theorem e.g.  `Continuous f → Continuous g → Continuous fun x => f (g x)` -/
```
Comment (joneugster) [inline Mathlib/Tactic/FunProp/Theorems.lean:47]:
```suggestion
  /-- Composition theorem e.g. `Continuous f → Continuous g → Continuous fun x => f (g x)` -/
```

File: Mathlib/Tactic/FunProp/Theorems.lean [hunk 21]
```diff
@@ -18,104 +18,74 @@ open Lean Meta
...
+  | .const => .const
   | .comp .. => .comp
-  | .letE .. => .letE
-  | .pi .. => .pi
+  | .apply  => .apply
+  | .pi => .pi
 
-set_option linter.unusedVariables false in
-/--  -/
+-- set_option linter.unusedVariables false in
```
Comment (joneugster) [inline Mathlib/Tactic/FunProp/Theorems.lean:62]:
```suggestion
```

File: Mathlib/Tactic/FunProp/Elab.lean [hunk 22]
```diff
@@ -30,47 +33,60 @@ private def emptyDischarge : Expr → MetaM (Option Expr) :=
...
-        msg := msg ++ "\nPotential issues to fix:"
-        msg := s.msgLog.foldl (init := msg) (fun msg m => msg ++ "\n  " ++ m)
-        msg := msg ++ "\n\nFor more detailed information use \
-          `set_option trace.Meta.Tactic.fun_prop true`"
-        throwError msg
 
+        msg := msg ++ "Issues:"
+        msg := s.mainMsgLog.foldl (init := msg) (fun msg m => msg ++ "\n  " ++ m)
+
+        -- todo enable only when an option is set
```
Comment (joneugster) [inline Mathlib/Tactic/FunProp/Elab.lean:86]: TODO. See comment about logging above.

File: Mathlib/Tactic/FunProp/Elab.lean [hunk 23]
```diff
@@ -17,9 +17,12 @@ namespace Meta.FunProp
 
 open Lean.Parser.Tactic
 
+/-- `fun_prop` config elaborator -/
+declare_config_elab elabFunPropConfig   FunProp.Config
```
Comment (joneugster) [inline Mathlib/Tactic/FunProp/Elab.lean:21]:
```suggestion
declare_config_elab elabFunPropConfig FunProp.Config
```

**Review by joneugster — CHANGES_REQUESTED** [review]
I'll stop my review here for now, mainly addressing the logging question. I'll look at the rest later.

Generally, it does help a lot if PRs containing several, mostly independent, changes are split into a few smaller PRs containing a single self-contained feature. Unfortunately, reviewing time grows faster than linear with the PR size.

Further, I already marked various styling issues (like double whitespace), but maybe you could just have another cleanup round yourself first.

File: Mathlib/Tactic/FunProp/Theorems.lean [hunk 24]
```diff
@@ -33,7 +33,7 @@ is represented by
  -/
 inductive LambdaTheoremArgs
   | id (X : Nat)
-  | const (X y : Nat)
+  | const
   | proj (x Y : Nat)
   | projDep (x Y : Nat)
   | comp (f g : Nat)
```
[the remark this answers is not in the document]
Comment (joneugster) [reply Mathlib/Tactic/FunProp/Theorems.lean]: believe this has been addressed.

**Comment by lecopivo** [comment]
> I'll stop my review here for now, mainly addressing the logging question. I'll look at the rest later.
> 
> Generally, it does help a lot if PRs containing several, mostly independent, changes are split into a few smaller PRs containing a single self-contained feature. Unfortunately, reviewing time grows faster than linear with the PR size.
> 
> Further, I already marked various styling issues (like double whitespace), but maybe you could just have another cleanup round yourself first.

Sorry about this. This PR was supposed to be just a fix to few bugs but then it got blocked because there was tons of missing docs. I got a bit frustrated by it as I didn't have the time to write it back then. As it is now bug fixes+doc PR I thought I can also squeeze update to logging.

Anyway, thanks a lot for picking on logging as I definitely left it half unfinished. I will clean it up now!

File: Mathlib/Tactic/FunProp/Types.lean (hunk 17 above)
Comment (lecopivo) [reply Mathlib/Tactic/FunProp/Types.lean:119]: The secondary errors are already reported with `set_option trace.Meta.Tactic.fun_prop` so I'm going to completely ditch the main/secondary dichotomy. 

I'm also going to include few tests with `#guard_msgs` to the dev file as you suggest.

File: Mathlib/Tactic/FunProp/Types.lean (hunk 16 above)
Comment (lecopivo) [reply Mathlib/Tactic/FunProp/Types.lean]: What is the intended way to add doc to an option? 

Like this?
```
/-- bla bla bla -/
initialize registerTraceClass `Meta.Tactic.fun_prop
```

Also I will just cut the tracing options to
```
Meta.Tactic.fun_prop
Meta.Tactic.fun_prop.attr
Debug.Meta.Tactic.fun_prop
```
I don't think there is a need for more right now.

**Comment by lecopivo** [comment]
@joneugster Thanks you very much for a great review! Hopefully I have addressed all your comments.

I added a new option `maxTransitionDepth` and `transitionDepth` context variable which limits how many transition theorems can be used. This allowed for few simplification. Logging happens only with `transitionDepth=0` and `thrmStack` has been completely removed which was an incomplete solution to prevent loops anyway.

**Review by joneugster — APPROVED** [review]
Looks good to me! Once all remaining conversations are resolved, I'll put this on the maintainer-merge queue

File: Mathlib/Tactic/FunProp/Core.lean [hunk 25]
```diff
@@ -160,77 +160,105 @@ def tryTheorem? (e : Expr) (thmOrigin : Origin) (funProp : Expr → FunPropM (Op
...
+  if thms.size = 0 then
+    let msg := s!"missing identity rule to prove `{← ppExpr e}`"
+    logError msg
+    trace[Meta.Tactic.fun_prop] msg
+    return none
+
+  for thm in thms do
+    let .id id_X := thm.thmArgs | return none
+    if let .some r ← tryTheoremWithHint? e (.decl thm.thmName) #[(id_X,X)] funProp then
+      return r
```
[the remark this answers is not in the document]
Comment (joneugster) [reply Mathlib/Tactic/FunProp/Core.lean]: Looks like the marked sections have docstrings and are quite self-explanatory now. Going to resolve this.

File: Mathlib/Tactic/FunProp/Core.lean [hunk 26]
```diff
@@ -160,77 +160,105 @@ def tryTheorem? (e : Expr) (thmOrigin : Origin) (funProp : Expr → FunPropM (Op
...
+    let .const := thm.thmArgs | return none
+    if let .some r ← tryTheorem? e (.decl thm.thmName) funProp then
+      return r
 
-  tryTheoremWithHint? e (.decl thm.thmName) #[(id_X,X),(id_y,y)] funProp
+  return none
 
 /-- Apply lambda calculus rule P fun f => f i` -/
 def applyProjRule (funPropDecl : FunPropDecl) (e x XY : Expr)
     (funProp : Expr → FunPropM (Option Result)) : FunPropM (Option Result) := do
```
[the remark this answers is not in the document]
Comment (joneugster) [reply Mathlib/Tactic/FunProp/Core.lean]: Looks like this is resolved.

File: Mathlib/Tactic/FunProp/Types.lean (hunk 16 above)
Comment (joneugster) [reply Mathlib/Tactic/FunProp/Types.lean]: Thanks that makes it much more understandable!

Yes, if you add a docstring `/-- yada yada -/` to `initialize registerTraceClass` I think it appears on hover. However, this is completely optional for this PR!

File: Mathlib/Tactic/FunProp/Types.lean (hunk 17 above)
Comment (joneugster) [reply Mathlib/Tactic/FunProp/Types.lean]: Thanks!

File: test/fun_prop_dev.lean [hunk 27]
```diff
@@ -44,11 +44,12 @@ variable [Obj α] [Obj β] [Obj γ] [Obj δ] [∀ x, Obj (E x)]
 @[fun_prop] theorem Con_apply (x : α) : Con (fun f : α → β => f x) := silentSorry
 @[fun_prop] theorem Con_applyDep (x : α) : Con (fun f : (x' : α) → E x' => f x) := silentSorry
 @[fun_prop] theorem Con_comp (f : β → γ) (g : α → β) (hf : Con f) (hg : Con g) : Con (fun x => f (g x)) := silentSorry
-@[fun_prop] theorem Con_let (f : α → β → γ) (g : α → β) (hf : Con (fun (x,y) => f x y)) (hg : Con g) : Con (fun x => let y:= g x; f x y) := silentSorry
+-- @[fun_prop] theorem Con_let (f : α → β → γ) (g : α → β) (hf : Con (fun (x,y) => f x y)) (hg : Con g) : Con (fun x => let y:= g x; f x y) := silentSorry
```
[the remark this answers is not in the document]
Comment (joneugster) [reply test/fun_prop_dev.lean:47]: support for functions of the form `fun x => let y:= g x; f x y` can be a new PR.

**Comment by lecopivo** [comment]
I think I have resolved all the remaining issues.

File: Mathlib/Tactic/FunProp/Theorems.lean
Comment (joneugster) [inline Mathlib/Tactic/FunProp/Theorems.lean:1]: Main change is that the inductive types have been simplified, along with other simplifications.

File: Mathlib/Tactic/FunProp/Elab.lean
Comment (joneugster) [inline Mathlib/Tactic/FunProp/Elab.lean:1]: This is mostly refactoring code, plus a small fix about dealing with `let`.

File: Mathlib/Tactic/FunProp/Core.lean
Comment (joneugster) [inline Mathlib/Tactic/FunProp/Core.lean:1]: This has a series of clean-ups to all the `applyXXXRule` declarations.

**Review by joneugster — APPROVED** [review]
maintainer merge

This is quite a big PR, so I made an experiment and left a comment with a summary on each file with a bigger modification.
